US07423054B2
Scheme 4 depicts the synthesis of the 1H-pyrazolo[3,4-b]pyridine q. A nicotinoylchloride k (e.g., 2-chloronicotinoyl chloride) is reacted with a hydrazine m (e.g., phenylhydrazine) and a base such as triethylamine in a solvent such as anhydrous methylene chloride to give o (e.g., 1-phenyl-1H-pyrazolo[3,4-b]pyridin-3-ol). The compound o is then cyclized by heating at 175° C. to provide p. p is reacted as in the transformation of d to g in Scheme 1 to provide q.

reactant | 1H-pyrazolo[3,4-b]pyridine | N1N=CC=2C1=NC=CC2 | C6H5N3
reactant | nicotinoylchloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | 2-chloronicotinoyl chloride | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | hydrazine | NN | H4N2
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-phenyl-1H-pyrazolo[3,4-b]pyridin-3-ol | C1(=CC=CC=C1)N1N=C(C=2C1=NC=CC2)O | C12H9N3O
